US04997840
Tris(triphenylphosphine)rhodium chloride (0.1 g) was added to the solution of 3-allyloxy-1-methyl-7-methylthio-4-quinolone and the mixture heated under reflux for 2 days. Hydrochloric acid (5M, 20 ml) was added dropwise and the mixture heated under reflux for 2 hours. The solvent was evaporated under reduced pressure at 50° and the resultant residue extracted with aqueous sodium hydroxide (1M, 100 ml). The extract was neutralised with hydrochloric acid (5M, 20 ml) and the solid was collected by filtration. The solid was washed with water (50 ml) and dried to give the novel compound 3-hydroxy-1-methyl-7-methylthio-4quinolone, m.p. 237°.

reactant | 3-allyloxy-1-methyl-7-methylthio-4-quinolone | C(C=C)OC1=CN(C2=CC(=CC=C2C1=S)C)C | C14H15NOS
catalyst | Tris(triphenylphosphine)rhodium chloride | 0.1 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.[Cl-].[Rh]
solvent | Hydrochloric acid | 5M, 20 ml | Cl | ClH
product | 3-hydroxy-1-methyl-7-methylthio-4quinolone | OC1=CN(C2=CC(=CC=C2C1=S)C)C | C11H11NOS
